US06967254B2
2-(4-Chloro-phenyl)-3-pyridin-4-yl-acrylic acid
To mixture of (4-Chloro-phenyl)-acetic acid 9.78 g and pyridine-4-carbaldehyde 6.14 g was added acetic anhydride 20 mL and triethyl amine 20 mL. The reaction mixture was heated to 120° C. for 24 hours and cooled down to room temperature. Water and ethyl acetate were added. The solids formed was filtered, washed with water and ethyl acetate and dried to afford the title compound as a light yellow solid. MS (ES+): 260 (M+H)+.

reactant | (4-Chloro-phenyl)-acetic acid | 9.78 g | ClC1=CC=C(C=C1)CC(=O)O | C8H7ClO2
reactant | pyridine-4-carbaldehyde | 6.14 g | N1=CC=C(C=C1)C=O | C6H5NO
reactant | acetic anhydride | 20 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | triethyl amine | 20 mL | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | O | H2O
product | 2-(4-Chloro-phenyl)-3-pyridin-4-yl-acrylic acid | ClC1=CC=C(C=C1)C(C(=O)O)=CC1=CC=NC=C1 | C14H10ClNO2
